Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
post TIPS monitoring
 
Major Surgical or Invasive Procedure:
TIPS ___

 
History of Present Illness:
Mr. ___ is a ___ male with congenital hepatic
fibrosis complicated by portal hypertension and variceal 
bleeding
who presents to the medicine floor s/p TIPS procedure for TIPS
monitoring. 
 
The patient recently presented to the ED on ___ with severe
variceal bleeding requiring blood/plasma transfusion as well as
endoscopic banding of his esophageal/gastric varices. He
ultimately elected to undergo a TIPS placement by ___ on ___.
Per sign out, the TIPS procedure was quite complicated, lasting 
a
total of 6 hours. The HVPG was reduced to 10. His
esophageal/gastric were not embolized though he did receive tPA
for his portal vein thrombosis.

 
Past Medical History:
- Congenital hepatic fibrosis
-- Portal hypertension
-- Gastric and esophageal varices s/p band ligation 
- Hyperlipidemia 
 
Social History:
___
Family History:
non contributory to this admission
 
Physical Exam:
VS: 24 HR Data (last updated ___ @ 1213)
    Temp: 97.9 (Tm 98.5), BP: 133/78 (129-146/75-78), HR: 71
(71-82), RR: 16 (___), O2 sat: 98% (95-98), O2 delivery: RA,
Wt: 203.7 lb/92.4 kg   

GENERAL: well appearing man in no acute distress
HEENT:  anicteric sclera, right neck access site bandaged &
clean. no active bleeding
HEART: RRR, no murmurs, rubs, gallops
LUNGS: clear bilaterally 
ABDOMEN: soft, mildly distended, non-tender to palpation but
subjective discomfort, RUQ dressing c/d/I without surrounding
erythema, drainage, bleeding
EXTREMITIES: wwp, no edema
NEURO: A&Ox3, moving all 4 extremities with purpose, no
asterixis. Able to say months of the year backwards.

 
Pertinent Results:
___ 06:47AM BLOOD WBC-4.2 RBC-3.93* Hgb-11.0* Hct-33.8* 
MCV-86 MCH-28.0 MCHC-32.5 RDW-15.2 RDWSD-47.3* Plt Ct-29*
___ 06:47AM BLOOD Glucose-109* UreaN-15 Creat-1.0 Na-141 
K-3.8 Cl-104 HCO3-23 AnGap-14
___ 06:47AM BLOOD ALT-824* AST-556* LD(LDH)-289* 
AlkPhos-360* TotBili-1.8*

 
Brief Hospital Course:
Mr. ___ is a ___ male with congenital hepatic 
fibrosis complicated by portal hypertension and variceal 
bleeding who presents to the medicine floor for post TIPS 
monitoring. Mild ___ post-op s/p 25gm albumin; otherwise 
uncomplicated course. Surgical wounds stable; dressing clean and 
dry. Patient able to tolerate PO without issue. No evidence of 
hepatic encephalopathy prior to discharge. No further planned 
intervention by ___ this hospitalization; they will see him in 
follow-up in ___ weeks.

TRANSITIONAL ISSUES:
====================
[ ] please obtain repeat LFTs on ___ with results faxed to 
___ (f: ___
[ ] consider repeat hepatitis A and B serologies to ensure 
immunization (non immune as of ___ in ___ records) 
[ ] consider repeat AFP as last AFP in BID system is from ___ 
[ ] please consider stopping lactulose that was continued on 
discharge depending on post-op course regarding HE 

ACTIVE ISSUES
=============
# Congenital Hepatic Fibrosis c/b portal hypertension:
# S/p TIPS ___: 
As above, patient presented in ___ with variceal bleeding 
requiring transfusions and banding of his esophageal/gastric 
varices, now s/p elective TIPS placement on ___ with ___ (10 x 6 
and 10 x 8 R TIPS placed). He has no history of HE or ascites. 
Per ___ team, the TIPS procedure was complicated, lasting 6 
hours. His post-TIPS HVPG is between ___ mmHg (pre-tips HVPG 
not documented). His varices were not embolized though he did 
receive tPA for his portal vein thrombosis. Tentatively may need 
another procedure in the near future. He was discharged on 
lactulose with instructions to titrate to two BMs daily. 
Consider stopping this at his follow-up appointment.

Post-op, his vitals have remained stable. His neck and abdominal 
access sites appear to be healing appropriately. His LFTs are up 
but expected post-op changes, downtrending by discharge. 
Telemetry and foley were dc'd. Patient has been able to urinate 
and has had multiple bowel movements with lactulose. His MELD-NA 
post-op on ___ was 16. Pain control with acetaminophen + 
hot/cold packs. He post-op course was uncomplicated except for a 
mild ___ discussed below which resolved with albumin.

Discharge MELD-NA: 11
Discharge HgB: 11

___
SCR 1.1 --> 1.4 ---> 1.0
Most likely related to NPO prior to procedure and prolonged 
operation. HRS very unlikely has patient has no ascites or 
hepatic hydrothorax (on exam or history of). Urine lytes were 
unremarkable with UNa <20 which is an appropriate response to 
pre-renal dehydration. UA and sediment unremarkable. Discharge 
Creatinine: 1.0

# Thrombocytopenia: 
Plts in the ___, at baseline. Secondary to cirrhosis, 
splenomegaly. SQH was held ___ thrombocytopenia. Patient had no 
e/o bleeding or petichiae during his hospital course. 
Discharge platelets: 29

CHRONIC ISSUES
==============
# Hyperlipidemia:
Continued Pravastatin 40 mg QHS

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Nadolol 40 mg PO DAILY 
2. Pravastatin 40 mg PO QPM 

 
Discharge Medications:
1.  Lactulose 30 mL PO DAILY 
RX *lactulose 10 gram/15 mL (15 mL) 30 ml by mouth once a day 
Disp #*1 Bottle Refills:*2 
2.  Nadolol 40 mg PO DAILY  
3.  Pravastatin 40 mg PO QPM  
4.Outpatient Lab Work
DX: Elevated Liver Enzymes
ICD-10: R94.5
Tests: AST, ALT, ALP, Total Bili, Direct Bili

Please fax results to ___ at ___.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
Congenital hepatic fibrosis
Portal hypertension
Cirrhosis

SECONDARY:
History of esophageal and gastric varices

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  
It was a pleasure taking care of you at the ___ 
___!  

WHY WAS I IN THE HOSPITAL?  
==========================  
- You were admitted because you had a TIPS procedure and needed 
routine monitoring afterwards

WHAT HAPPENED IN THE HOSPITAL?  
==============================  
- You had a TIPS procedure performed
- Post-procedure, your mental status, liver/kidney tests, and 
blood counts were monitored
- You received a medicine to help you have regular bowel 
movements

WHAT SHOULD I DO WHEN I GO HOME?  
================================  
- Be sure to take all your medications and attend all of your 
appointments listed below.
- Take your lactulose enough times daily to have two bowel 
movements every day.
- If you notice black or bloody stool or if you are vomiting 
blood, please go to the ER right away
- Interventional Radiology will call you with an appointment in 
___ weeks. 

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

Your ___ Healthcare Team  

 
Followup Instructions:
___